US07618975B2
(4-Hydroxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine
To a solution of (4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine hydrochloride salt (106 mg, 0.336 mmol) in dichloromethane (10 mL) at −78° C. was added slowly boron tribromide (1M in CH2Cl2, 0.75 mL) under argon. The cold bath was removed and the reaction mixture was allowed to warm up slowly to 10° C. in 1.5 h. The reaction mixture was quenched with water (10 mL), basified with 2N NaOH to pH=10, and extracted with EtOAc (2×25 mL). The EtOAc extracts were dried and evaporated to give a light brown residue. The crude was purified by column chromatography (SiO2, EtOAc:hexanes/15-50%) to give the product as a white solid, which was further purified by recrystallization from MeOH: 1H NMR (acetone-d6) 8.74 (s, 1H), 7.75 (m, 1H), 7.67 (m, 1H), 7.20-7.18 (m, 3H), 7.12 (m, 1H), 7.04-6.99 (m, 2H), 3.64 (s, 3H), 2.79 (s, 3H).

reactant | (4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine hydrochloride salt | 0.336 mmol, 106 mg | Cl.COC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C
reactant | boron tribromide | 1M, 0.75 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (4-Hydroxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine | OC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C16H15N3O
